US08877780B2
To a stirred mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methane sulfonate (0.50 g, 1.40 mmol) and 4-ethoxyphenylisocyanate (0.20 mL, 1.40 mmol) in N,N-dimethylformamide (10 mL), was added triethylamine (0.38 mL, 2.7 mmol) at room temperature under nitrogen. After 2 h, 1 N aq. HCl (15 mL) was added and the solids were isolated by filtration, washed with water (30 mL). The crude solids were slurried in EtOAc (15 mL) for 4 h then filtered, washed with EtOAc (15 mL) and dried in vacuo to give 1-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-3-(4-ethoxy-phenyl)-urea as an off-white solid (0.66 g, 100% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 to 90/10 CH3CN/0.1% H3PO4 gradient over 15 mins, 7.43 min (99.34%); mp: 277-279° C.; 1H NMR (DMSO-d6) δ 1.29 (t, J=7.0 Hz, 3H, CH3), 1.85-2.14 (m, 1H, CHH), 2.23-2.47 (m, 1H, CHH), 2.59 (d, J=17.6 Hz, 1H, CHH), 2.79-3.07 (m, 1H, CHH), 3.94 (q, J=7.0 Hz, 2H, CH2), 4.23-4.36 (m, 1H, CHH), 4.36-4.55 (m, 3H, CHH, CH2), 5.11 (dd, J=4.9, 13.2 Hz, 1H, CH), 6.62 (t, J=5.9 Hz, 1H, NH), 6.80 (d, J=8.9 Hz, 2H, Ar), 7.29 (d, J=8.9 Hz, 2H, Ar), 7.44 (d, J=7.9 Hz, 1H, Ar), 7.51 (s, 1H, Ar), 7.69 (d, J=7.7 Hz, 1H, Ar), 8.40 (s, 1H, NH), 10.98 (s, 1H, NH); 13C NMR (DMSO-d6) δ 14.72, 22.49, 31.20, 42.79, 47.10, 51.56, 63.04, 114.44, 119.52, 121.85, 122.91, 126.88, 130.25, 133.39, 142.36, 145.03, 153.24, 155.44, 167.96, 170.99, 172.86; LCMS: MH=437; Anal Calcd for C23H24N4O5: C, 63.29; H, 5.54; N, 12.84. Found: C, 63.27; H, 5.46; N, 12.73.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methane sulfonate | 1.40 mmol, 0.50 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 4-ethoxyphenylisocyanate | 1.40 mmol, 0.20 mL | C(C)OC1=CC=C(C=C1)N=C=O | C9H9NO2
reactant | triethylamine | 2.7 mmol, 0.38 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1 N, 15 mL | Cl | ClH
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-3-(4-ethoxy-phenyl)-urea | 0.66 g, 100% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(=O)NC1=CC=C(C=C1)OCC)=O)=O | C23H24N4O5
